US04585778
Preparation of 2-(2,4-dichlorophenyl)-3-(2-carboxyethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol
3-Mercaptopropionic acid (1.2 g, 1.1 equiv.) was dissolved in dimethylformamide (50 ml) and cooled to 5° C. in an ice bath. Sodium hydride (1.6 g of a 50% dispersion in oil, 3.3 equiv.) was added in portions over 10 minutes, followed by 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane mesylate (3.6 g). After stirring overnight (19 hours) the mixture was poured onto ice (200 ml) and extracted with methylene chloride (3×50 ml). The aqueous layer was adjusted to pH3 with hydrochloric acid (5N) and extracted with methylene chloride (3×50 ml). The organic extracts were combined, washed with saturated sodium chloride solution (2×50 ml), dried (Na2SO4), and evaporated under reduced pressure to a gum, 5.6 g.

reactant | 3-Mercaptopropionic acid | 1.2 g, 1.1 equiv. | SCCC(=O)O | C3H6O2S
reactant | Sodium hydride | [H-].[Na+]
reactant | 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane mesylate | 3.6 g | S(C)(=O)(=O)O.ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dichlorophenyl)-3-(2-carboxyethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CSCCC(=O)O)O | C14H15Cl2N3O3S
